US07384934B2
(S)-6-Fluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene hydrochloride
Stir (S)-6-fluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (5.00 g, 13.4 mmol) under nitrogen to dissolve in 1,2-dichloroethane (DCE, 55 mL). Cool to 15-20° C. and add formaldehyde (37% wt. in water, 1.03 g solution, 0.38 g, 12.7 mmol) in one portion. Add sodium triacetoxyborohydride (3.41 g, 16.1 mmol) in portions over 5-10 minutes, keeping the pot temperature below 20° C. Stir at 15-20° C. for 15 minutes, and then allow warming to ambient temperature. Stir for 2 hours, and then add aqueous saturated sodium bicarbonate (50 mL). Stir for 15 minutes, and then separate layers. Extract the product with methylene chloride. Extract the combined organic layers with brine, dry over magnesium sulfate, and then concentrate under reduced pressure to a residue. Add methylene chloride to the residue and concentrate under reduced pressure to give 4.94 g (100%) of the free base of the title compound. 1H NMR (400 MHz, DMSO-d6) 87.78 (bs, 1H), 6.79 (m, 1H), 6.68 (m, 1H), 6.53 (m, 1H), 6.34 (s, 1H), 3.74 (m, 2H), 3.36 (m, 3H), 3.22 (s, 3H), 2.95 (m, 1H), 2.77 (m, 1H), 2.69 (m, 1H), 2.30 (s, 3H), 2.23 (s, 3H), 2.17 (bs, 1H), 1.84 (m, 1H), 1.52 (m, 1H). HRMS (ES) exact mass M+H calcd for C20H25FN4OS 389.1811; found 389.1802.

reactant | (S)-6-fluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 13.4 mmol, 5.00 g | FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C)C1 | C19H23FN4OS
reactant | formaldehyde | 12.7 mmol, 1.03 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 16.1 mmol, 3.41 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | 1,2-dichloroethane | 55 mL | ClCCCl | C2H4Cl2
product | (S)-6-Fluoro-10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene hydrochloride | 4.94 g, 100% | Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCOC)C)C1 | InChI=1S/C20H25FN4OS.ClH/c1-13-10-16-19(25-8-7-24(2)15(12-25)6-9-26-3)22-17-5-4-14(21)11-18(17)23-20(16)27-13;/h4-5,10-11,15,23H,6-9,12H2,1-3H3;1H/t15-;/m0./s1
